US08236964B2
a) 2-Iodo-benzofuran-4-carboxylic acid
To a cold (−78° C.) solution of benzofuran-4-carboxylic acid (100 mg) in dry diethyl ether (1.2 mL), was added dropwise tert-butyl lithium (1.7 M in pentane, 0.8 mL, 2.2 eq). The reaction mixture was stirred at −78° C. for 30 min. under nitrogen, then a solution of iodine (172.2 mg, 1.2 eq) in ether (1.9 mL) was added dropwise. The reaction was stirred at −78° C. for 30 min. and allowed to warm to rt. The reaction mixture was partitioned between sat. NH4Cl and diethyl ether, the aqueous phase was extracted once again with diethyl ether. The combined organic extracts were washed with sat. sodium thiosulfate, water, dried (Na2SO4), filtered and concentrated to yield a crude brown solid. FC (DCM/MeOH: 99/1 to 97/3) afforded the title compound as a pink solid (40 mg, 23%). LC-MS: tR=0.89 min; [m+H]+=288.99. b) 2-Iodo-benzofuran-4-carboxylic acid [3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-thiazolidin-4-ylmethyl]-amide A solution of 2-iodo-benzofuran-4-carboxylic acid (29.5 mg), TBTU (34 mg 1 eq), DIPEA (0.087 mL, 5 eq) in dry DMF (0.325 mL) was stirred at rt for 15 min. Then, was added (4-Aminomethyl-thiazolidin-3-yl)-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone (34 mg, 1.0 eq.) in dry DMF (0.325 mL). Stirring was continued over night. The reaction mixture was partitioned between sat. aq. NaHCO3 solution/EtOAc. The organic phase was washed with brine, dried (MgSO4), filtered and concentrated to give 2-iodo-benzofuran-4-carboxylic acid [3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-thiazolidin-4-ylmethyl]-amide (57 mg, 93%) which was used for the next step without further purification. LC-MS: tR=0.89 min; [m+H]+=288.99. c) 2-Trifluoromethyl-benzofuran-4-carboxylic acid [3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-thiazolidin-4-ylmethyl]-amide

reactant | benzofuran-4-carboxylic acid | 100 mg | O1C=CC=2C1=CC=CC2C(=O)O | C9H6O3
reactant | tert-butyl lithium | 1.7 M, 0.8 mL, 2.2 eq | C(C)(C)(C)[Li]
reactant | iodine | 172.2 mg, 1.2 eq | II | I2
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | diethyl ether | 1.2 mL | C(C)OCC | C4H10O
solvent | ether | 1.9 mL | CCOCC | C4H10O
product | 2-Iodo-benzofuran-4-carboxylic acid | 40 mg, 23% | IC=1OC=2C(C1)=C(C=CC2)C(=O)O | C9H5IO3
